US07919629B2
200 mmol of 1-methylpyrrolidone (Aldrich) in solution in 100 ml of toluene were quaternized with 100 mmol of diethyl sulfite (Aldrich), added slowly at 0° C., with stirring for 24 hours at ambient temperature. After evaporation of the solvent and drying, N-methyl-N-propylpyrrolidinium ethylsulfamate was obtained. 50 mmol of ethylsulfamate were solubilized in 50 ml of acetonitrile, and were reacted with 50 mmol of KBFFST. After stirring for 2 hours, and then filtration, evaporation of the solvent and drying, the N-propane-N-methylpyrrolidinium salt of 3,5-difluorosulfonyl-1,2,4-triazole (PYR13BFST) corresponding to the following formula was obtained:

reactant | 1-methylpyrrolidone | 200 mmol | CN1C(CCC1)=O | C5H9NO
reactant | diethyl sulfite | 100 mmol | S(=O)(OCC)OCC | C4H10O3S
reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | N-methyl-N-propylpyrrolidinium ethylsulfamate | C(C)NS([O-])(=O)=O.C[N+]1(CCCC1)CCC | InChI=1S/C8H18N.C2H7NO3S/c1-3-6-9(2)7-4-5-8-9;1-2-3-7(4,5)6/h3-8H2,1-2H3;3H,2H2,1H3,(H,4,5,6)/q+1;/p-1
